US06288096B1
5-([4-[2-(4-Cyanophenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione
3.9 g (11 mmole) 5-(4-[2-(4-cyanophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione and 3.88 g (15 mmole) diethyl-1,4-dihydro-2,6-dimethyl-3,5-pyridine dicarboxylate were mixed and heated to 210° C. under vacuum for 1 hour. The solid material was dissolved in ethyl acetate, evaporated in vacuo, purified by chromatography on silica gel with first dichloromethane, then dichloromethane:diethyl ether (95:5) and finally dichloromethane:methanol (95:5) as eluents. Crystallization in acetone/water gave 0.65 g (yield 17%) of the desired product.

reactant | 5-(4-[2-(4-cyanophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 11 mmole, 3.9 g | C(#N)C1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C19H14N2O3S
reactant | diethyl-1,4-dihydro-2,6-dimethyl-3,5-pyridine dicarboxylate | 15 mmole, 3.88 g | C(C)OC(=O)C1=C(NC(=C(C1)C(=O)OCC)C)C | C13H19NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-([4-[2-(4-Cyanophenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 0.65 g, yield 17% | C(#N)C1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C19H16N2O3S
